US08541536B2
The above amounts of diethanolamine and iodine were added to the above amount of soybean oil with stirring. The mixture was stirred for 22 hours at a temperature between about 180° F. and about 228° F. Then, the above amounts of maleic anhydride, toluene and p-toluenesulphonic acid were added with stirring. The mixture was refluxed for 10 hours using a Dean-Stark distilling trap, then distilled out of solvent to give a liquid soybean oil based polyol with a hydroxyl number of 54. A reaction mixture of about 10.00 grams of the polyol and the above indicated amount of diphenylmethane diisocyanate yielded a solid soybean oil based polyurethane material.

reactant | diethanolamine | N(CCO)CCO | C4H11NO2
reactant | iodine | II | I2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | diphenylmethane diisocyanate | [N-]=C=O.[N-]=C=O.C1(=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C13H12.2CNO/c1-3-7-12(8-4-1)11-13-9-5-2-6-10-13;2*2-1-3/h1-10H,11H2;;/q;2*-1
